US06201151B1
A series of 15 ml isooctane solution was prepared as containing 3 mM solution of racemic naproxen trifluoroethyl thioester, 50 mM 2-N-morpholinoethanol as the alcohol, 96 mM trioctylamine, and 618 mg polypropylene having Lipase MY immobilized thereto (equivalent to 30 mg/ml Lipase MY) for carrying out transesterification dynamic resolution at 45° C. to synthesize the desired (S)-naproxen 2-N-morpholinoethanol ester prodrug. By taking samples at various time intervals and analyzed by high performance liquid chromatography (mobile phase composition as n-hexane : isopropanol : acetic acid=97:3:1; flow rate=0.4 ml/min, on a Chiralcel OD column provided by Daicel Co., Japan) to obtain time-course variations of the racemate conversion (Xt), conversion of hydrolytic by-product of (S)-naproxen (XNA), the optical purity (eeP,M) and conversion (XMA) of (S)-ester product as shown in FIG. 5, wherein Xt, XNA, eeP,M and XMA are defined as X t = P M + Q M + P N + Q N A 0 + B 0 X NA = P N A 0 + B 0 X MA = P N A 0 + B 0 ee P , M = P M - Q M P M + Q M

reactant | isooctane | 15 ml | C(C)(C)CC(C)(C)C | C8H18
reactant | trioctylamine | 96 mM | C(CCCCCCC)N(CCCCCCCC)CCCCCCCC | C24H51N
reactant | polypropylene | 618 mg | C(C(C)[*:2])[*:1]
reactant | n-hexane | CCCCCC | C6H14
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | (S)-naproxen | C[C@@H](C1=CC2=C(C=C1)C=C(C=C2)OC)C(=O)O | C14H14O3
